US04075408
A mixture of 4.65 g. of 4-(2-chlorophenyl)-1,6-dihydro-1,3-dimethylpyrazolo[3,4-e][1,4]diazepine-7-thiol (prepared as disclosed in U.S. Pat. No. 3,770,762), 250 ml. of tetrahydrofuran, 3.0 g. of 2-propynylamine and 20 ml. of methanol is allowed to stand at room temperature (20°-30° C.) for 3 days, then evaporated at reduced pressure to give a residue of 4-(2-chlorophenyl-1,6-dihydro-1,3-dimethyl-7-(2-propynylamino)pyrazolo[3,4-e][1,4]diazepine; m.p. 165°-167° C. after crystallization from acetonitrile. For further purification, the product is dissolved in 9:1 tolueneacetonitrile and chromatographed on a column of neutral alumina. The column is eluted with 9:1 methanol-acetonitrile and the eluate is evaporated at reduced pressure to give a residue of m.p. 176°-178° C. (dec.).

reactant | 4-(2-chlorophenyl)-1,6-dihydro-1,3-dimethylpyrazolo[3,4-e][1,4]diazepine-7-thiol | ClC1=C(C=CC=C1)C=1C2=C(N=C(CN1)S)N(N=C2C)C | C14H13ClN4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 2-propynylamine | C(C#C)N | C3H5N
solvent | methanol | CO | CH4O
product | 2-chlorophenyl-1,6-dihydro-1,3-dimethyl-7-(2-propynylamino)pyrazolo[3,4-e][1,4]diazepine | ClC1=C(C=CC=C1)C=1C2=C(N=C(CN1)NCC#C)N(N=C2C)C | C17H16ClN5
